US07652049B2
A solution of methylmagnesium chloride (3M in THF, 1.74 mL, 5.22 mmol) was added dropwise to a stirred solution of 1-(2-fluoro-3,4-dimethoxyphenyl)ethanone (J. Chem. Soc. Perkin Trans. 2 1994, 547-555) (646 mg, 3.26 mmol) in heptane (3.1 mL) and THF (1.4 mL) at −20° C. under N2. The reaction was allowed to warm to room temperature and was stirred for 4 h. 50% Saturated NH4Cl (20 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give 2-(2-fluoro-3,4-dimethoxyphenyl)propan-2-ol as a colorless oil. LCMS calc.=197.1; found=197.1 (M-OH)+. 1H NMR (600 MHz, CDCl3) δ 7.14 (t, J=8.8 Hz, 1H), 6.61 (dd, J=8.8, 1.4 Hz, 1H), 3.86 (s, 3H), 3.83 (s, 3H), 2.56-2.25 (br s, 1H), 1.58 (s, 6H).

reactant | methylmagnesium chloride | 5.22 mmol, 3M, 1.74 mL | C[Mg]Cl
reactant | 1-(2-fluoro-3,4-dimethoxyphenyl)ethanone | 3.26 mmol, 646 mg | FC1=C(C=CC(=C1OC)OC)C(C)=O | C10H11FO3
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | heptane | 3.1 mL | CCCCCCC | C7H16
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 2-(2-fluoro-3,4-dimethoxyphenyl)propan-2-ol | FC1=C(C=CC(=C1OC)OC)C(C)(C)O | C11H15FO3
